data/polar.json
{"reaction_name": "Conjugate addition to a coumarin / α-pyrone system", "rsmi": "[CH2:1]1[CH2:18][N+:29]2([CH2:26][c:12]3[cH:6][c:23]4[cH:5][cH:4][cH:24][cH:14][c:21]4[o:17][c:9]3=[O:16])[CH2:19][CH2:2][N:27]1[CH2:3][CH2:20]2.[cH:7]1[cH:10][c:11]2[c:28]([cH:15][cH:30]1)[CH:25]=[CH:8][CH:22]2[Li:13]>>[CH2:1]1[CH2:18][N+:29]2([CH2:26][C:12]3=[C:9]([O-:16])[O:17][c:21]4[cH:14][cH:24][cH:4][cH:5][c:23]4[CH:6]3[CH:22]3[CH:8]=[CH:25][c:28]4[c:11]3[cH:10][cH:7][cH:30][cH:15]4)[CH2:19][CH2:2][N:27]1[CH2:3][CH2:20]2.[Li+:13]", "epd": [["Sigma-/Sigma+", [22, 13], [22, 6]], ["Pi-/Pi+", [6, 12], [12, 9]], ["Pi-/LP+", [9, 16], [16]]]}
{"reaction_name": "Glycosylation", "rsmi": "[CH2:1]1[CH2:2][CH2:6][O:4][CH:5]([Cl:9])[CH2:8]1.[O:3]([CH3:7])[H:10]>>[CH2:1]1[CH2:2][CH2:6][O:4][CH:5]([O:3][CH3:7])[CH2:8]1.[Cl:9][H:10]", "epd": [["LP-/Sigma+", [3], [3, 5]], ["Sigma-/LP+", [5, 9], [9]], ["LP-/Sigma+", [9], [9, 10]], ["Sigma-/LP+", [3, 10], [3]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:3]([CH:10]1[N+:15](=[CH:5][CH:30]=[CH:11][c:22]2[cH:6][cH:16][cH:4][cH:17][cH:7]2)[CH:14]([CH2:31][c:26]2[cH:32][cH:12][cH:19][cH:13][cH:33]2)[C:21](=[O:8])[N:27]1[CH3:20])([CH3:23])([CH3:24])[CH3:25].[CH3:1][C:9]([CH3:2])=[N+:18]([O-:28])[O-:29]>>[CH3:1][C:9]([CH3:2])([CH:11]([c:22]1[cH:6][cH:16][cH:4][cH:17][cH:7]1)[CH:30]=[CH:5][N:15]1[CH:10]([C:3]([CH3:23])([CH3:24])[CH3:25])[N:27]([CH3:20])[C:21](=[O:8])[CH:14]1[CH2:31][c:26]1[cH:32][cH:12][cH:19][cH:13][cH:33]1)[N+:18](=[O:28])[O-:29]", "epd": [["LP-/Pi+", [28], [18, 28]], ["Pi-/Sigma+", [9, 18], [9, 11]], ["Pi-/Pi+", [11, 30], [30, 5]], ["Pi-/LP+", [5, 15], [15]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:2]1([P:15]([c:3]2[cH:10][cH:26][cH:6][cH:27][cH:11]2)([c:4]2[cH:12][cH:28][cH:7][cH:29][cH:13]2)=[CH:32][C:21]([O:18][CH2:14][CH3:33])=[O:19])[cH:8][cH:24][cH:5][cH:25][cH:9]1.[cH:1]1[cH:16][cH:30][c:23]([N+:20](=[CH2:22])[CH3:34])[cH:31][cH:17]1>>[cH:1]1[cH:16][cH:30][c:23]([N:20]([CH2:22][CH:32]([P+:15]([c:2]2[cH:8][cH:24][cH:5][cH:25][cH:9]2)([c:3]2[cH:10][cH:26][cH:6][cH:27][cH:11]2)[c:4]2[cH:12][cH:28][cH:7][cH:29][cH:13]2)[C:21]([O:18][CH2:14][CH3:33])=[O:19])[CH3:34])[cH:31][cH:17]1", "epd": [["Pi-/Sigma+", [32, 15], [32, 22]], ["Pi-/LP+", [22, 20], [20]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[C:2]([CH3:7])([CH:10]=[CH2:5])=[O:11].[CH2:1]=[CH:4][CH:6]=[CH:8][C:9](=[O:3])[CH3:12]>>[CH2:1]([CH:4]=[CH:6][CH+:8][C:9](=[O:3])[CH3:12])[CH2:5][CH-:10][C:2]([CH3:7])=[O:11]", "epd": [["Pi-/Sigma+", [1, 4], [1, 5]], ["Pi-/LP+", [5, 10], [10]], ["Pi-/Pi+", [6, 8], [4, 6]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:2]=[S:7](=[O:3])([N:13]=[C:12]=[O:15])[c:21]1[cH:9][cH:5][c:19]([CH3:22])[cH:6][cH:10]1.[cH:1]1[c:17]2[cH:16][cH:11][cH:4][cH:14][c:20]2[cH-:8][cH:18]1>>[CH:1]1=[CH:18][CH:8]([C:12]([N-:13][S:7](=[O:2])(=[O:3])[c:21]2[cH:9][cH:5][c:19]([CH3:22])[cH:6][cH:10]2)=[O:15])[c:20]2[cH:14][cH:4][cH:11][cH:16][c:17]21", "epd": [["LP-/Sigma+", [8], [8, 12]], ["Pi-/LP+", [12, 13], [13]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH3:3][CH2:21][c:22]1[c:8]([CH3:25])[cH:9][nH:18][c:15]1[CH3:5].[cH:1]1[cH:11][cH:2][c:4]2[c:12]([o+:6][c:10](-[c:20]3[cH:16][cH:13][cH:23][cH:14][cH:17]3)[cH:7][cH:19]2)[cH:24]1>>[cH:1]1[cH:11][cH:2][c:4]2[c:12]([cH:24]1)[O:6][C:10]([c:20]1[cH:16][cH:13][cH:23][cH:14][cH:17]1)=[CH:7][CH:19]2[CH:9]1[C:8]([CH3:25])=[C:22]([CH2:21][CH3:3])[C:15]([CH3:5])=[NH+:18]1", "epd": [["LP-/Pi+", [18], [15, 18]], ["Pi-/Pi+", [22, 15], [8, 22]], ["Pi-/Sigma+", [9, 8], [9, 19]], ["Pi-/Pi+", [19, 7], [7, 10]], ["Pi-/LP+", [10, 6], [6]]]}
{"reaction_name": "Sulfoxide elimination deprotection", "rsmi": "[CH:1]([CH:4]([S:3]([CH3:2])=[O:6])[CH3:7])([CH3:5])[H:8]>>[CH3:2][S:3][O:6][H:8].[CH:1](=[CH:4][CH3:7])[CH3:5]", "epd": [["Sigma-/Pi+", [1, 8], [1, 4]], ["Pi-/LP+", [3, 6], [6]], ["LP-/Sigma+", [6], [6, 8]], ["Sigma-/LP+", [3, 4], [3]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:2]([O:11][C:24](=[O:9])[N:19]=[CH:10][c:7]1[cH:4][cH:13][cH:18][cH:14][cH:5]1)([CH3:20])([CH3:21])[CH3:22].[cH:1]1[c:16]2[cH:15][cH:8][cH:3][cH:12][c:23]2[cH-:6][cH:17]1>>[CH:1]1=[CH:17][CH:6]([CH:10]([c:7]2[cH:4][cH:13][cH:18][cH:14][cH:5]2)[N:19]=[C:24]([O-:9])[O:11][C:2]([CH3:20])([CH3:21])[CH3:22])[c:23]2[cH:12][cH:3][cH:8][cH:15][c:16]21", "epd": [["LP-/Sigma+", [6], [6, 10]], ["Pi-/Pi+", [10, 19], [19, 24]], ["Pi-/LP+", [24, 9], [9]]]}
